US08420816B2
(R)-1-(2-(6-fluoro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoyl)-3-methylazetidine-3-carbonitrile
To an 8 mL scintillation vial equipped for stirring was added (R)-2-(6-fluoro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoic acid (15 mg, 0.051 mmol). DMF (0.5 mL), 3-cyano-3-methylazetidine (15 mg, 0.077 mmol), HOBt (11.83 mg, 0.077 mmol), EDC (14.81 mg, 0.077 mmol) and N,N-dimethylpyridin-4-amine (9.44 mg, 0.077 mmol) were added and the solution was stirred at 25° C. for 4 h. The reaction mixture was purified via preparative mass trigger LC-MS (AcCN/H2O, 20-50%). The fractions were collected and lyophilized to afford the title compound as a white solid (9 mg, 47.3%). 1H NMR (400 MHz, DMSO-d6) δ 0.79 (dd, J=6.69, 2.91 Hz, 3 H) 0.96 (dd, J=9.09, 6.57 Hz, 3 H) 1.41-1.73 (m, 3 H) 2.26-2.44 (m, 1 H) 3.85 (dd, J=15.66, 9.85 Hz, 1 H) 4.06 (d, J=9.35 Hz, 2 H) 4.61 (s, 1 H) 4.88 (dd, J=19.20, 6.82 Hz, 1 H) 5.03 (d, J=11.12 Hz, 1 H) 5.07-5.18 (m, 1 H) 7.99 (t, J=3.16 Hz, 1 H) 8.25 (t, J=2.65 Hz, 1 H) 12.40 (br. s., 1 H). [M+H] calc'd for C19H20FN5O2, 370; found, 370.5

reactant | (R)-2-(6-fluoro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoic acid | 0.051 mmol, 15 mg | FC1=CN=C2C=3C(C(N(CC13)[C@@H](C(=O)O)C(C)C)=O)=CN2 | C14H14FN3O3
reactant | 3-cyano-3-methylazetidine | 0.077 mmol, 15 mg | C(#N)C1(CNC1)C | C5H8N2
reactant | HOBt | 0.077 mmol, 11.83 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.077 mmol, 14.81 mg
catalyst | N,N-dimethylpyridin-4-amine | 0.077 mmol, 9.44 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | (R)-1-(2-(6-fluoro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoyl)-3-methylazetidine-3-carbonitrile | 9 mg, 47.3% | FC1=CN=C2C=3C(C(N(CC13)[C@@H](C(=O)N1CC(C1)(C#N)C)C(C)C)=O)=CN2 | C19H20FN5O2
